US05298577
Ethylene/vinyl acetate/ethyl acrylate copolymer
The cascade of autoclaves of Example 1 is continuously charged with 458 g/h of ethylene, a mixture A (2000 ml/h) consisting of 6.3 kg of vinyl acetate (d=0.79 g/cm3), 9 kg of tert.-butanol and 2.7 kg of ethyl acrylate (d=0.923818 g/cm3) and a mixture B (1200 ml/h) consisting of 0.6 kg of vinyl acetate, 0.6 kg of tert.-butanol and 9 g of tert.-butyl perpivalate. The internal reactor temperatures are T1=64° C., T2=68° C., T3=73° C. and T4=80° C. The operating pressure is 300 bar. When equilibrium is reached samples are taken from the autoclaves through sluices. Unused ethylene is depressurised with caution and discharged. The degassed samples have solids contents of 7 to 26% by weight; the Mooney viscosity is 20 (ML-4/100° C.). The average residence time was 6 hours.

reactant | ethylene | C=C | C2H4
reactant | vinyl acetate | 6.3 kg | C(C)(=O)OC=C | C4H6O2
reactant | ethyl acrylate | 2.7 kg | C(C=C)(=O)OCC | C5H8O2
reactant | vinyl acetate | 0.6 kg | C(C)(=O)OC=C | C4H6O2
solvent | tert.-butanol | 0.6 kg | C(C)(C)(C)O | C4H10O
solvent | tert.-butanol | 9 kg | C(C)(C)(C)O | C4H10O
product | Ethylene/vinyl acetate ethyl acrylate | C=C.C(C)(=O)OC=C.C(C=C)(=O)OCC | InChI=1S/C5H8O2.C4H6O2.C2H4/c1-3-5(6)7-4-2;1-3-6-4(2)5;1-2/h3H,1,4H2,2H3;3H,1H2,2H3;1-2H2
